US08071807B2
{4-Hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid (3.6 mmol) and hydrogen chloride (4N in 1,4-dioxane) were combined in EtOH and stirred at 80° C. for 3 hours. After concentrating to dryness, the residue was purified by silica gel chromatography to give {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester.

reactant | {4-Hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid | 3.6 mmol | OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F | C17H14F3NO6S
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | EtOH | CCO | C2H6O
product | {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C18H16F3NO6S
